US09388189B2
(S)-2-(1-((6-Amino-5-(3-hydroxy-5-(trifluoromethyl)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) was treated with (3-hydroxy-5-(trifluoromethyl)phenyl)boronic acid (70 mg, 0.34 mmol), sodium carbonate (108 mg, 1.02 mmol) and 2′-(dimethylamino)-2-biphenylyl-palladium(II) chloride dinorbornylphosphine complex (6 mg, 0.01 mmol) according to the method described in the Preparation 17. The residue was purified by reverse phase using SP1® Purification System to give 30 mg (25% yield) of the title compound as a solid. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (3-hydroxy-5-(trifluoromethyl)phenyl)boronic acid | 0.34 mmol, 70 mg | OC=1C=C(C=C(C1)C(F)(F)F)B(O)O | C7H6BF3O3
reactant | sodium carbonate | 1.02 mmol, 108 mg | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3-hydroxy-5-(trifluoromethyl)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 30 mg, 25% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=CC(=C2)C(F)(F)F)O | C26H22F3N7O2
